2180-05-10 07:53:00 Physician Resident Progress Note
Chief Complaint: etoh withdrawal
   24 Hour Events:
 PICC LINE - START [**2180-5-9**] 02:47 PM
   -Became increasingly more agitated on po ativan, with CIWA scale to 30
   and continued refractory hallucinations.  We switched him to IV
   diazapam.
   -Repeat NCHCT ordered
   -SW consult in
   -PCP office closed, Dr. [**Last Name (STitle) 2447**] at [**Hospital1 1817**]
   -PICC line placed by IV team
   Allergies:
   Penicillins
   Unknown; Rash;
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Diazepam (Valium) - [**2180-5-10**] 04:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2180-5-10**] 07:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.3
C (99.1
   HR: 85 (85 - 110) bpm
   BP: 142/72(86) {127/64(79) - 179/96(112)} mmHg
   RR: 26 (15 - 32) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  3,887 mL
                                                                  1,378 mL
   PO:
                                                                    780 mL
                                                                    180 mL
   TF:
   IVF:
                                                                  3,107 mL
                                                                  1,198 mL
   Blood products:
   Total out:
                                                                  1,565 mL
                                                                  1,020 mL
   Urine:
                                                                  1,565 mL
                                                                  1,020 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,322 mL
                                                                    358 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///28/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: )
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   274 K/uL
   11.6 g/dL
   91 mg/dL
   0.6 mg/dL
   28 mEq/L
   3.9 mEq/L
   5 mg/dL
   101 mEq/L
   138 mEq/L
   32.9 %
   9.5 K/uL
        [image002.jpg]
                             [**2180-5-9**]  11:45 AM
                             [**2180-5-9**]  03:50 PM
                             [**2180-5-10**]  03:10 AM
   WBC
   8.3
   9.5
   Hct
   35.7
   32.9
   Plt
   255
   274
   Cr
   0.7
   0.6
   0.6
   Glucose
   116
   121
   91
   Other labs: PT / PTT / INR:13.4/31.4/1.2, Ca++:7.5 mg/dL, Mg++:2.4
   mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   The patient is a 61 y.o.m. with ETOH abuse, h/o withdrawal seizures and
   DT
s who presents with alcohol intoxication and ? seizures in ED.
   .
   # ETOH withdrawal
 Last drink Monday afternoon at some point.  Chronic
   alcoholic.  Currently with alcoholic hallucinosis but no current
   evidence of seizures.  However, timing is right for seizures and
   history of seizures in patient
s history in concerning - treatment is
   benzodiazepines.  Does not appear to be DTs at not the right timing and
   no hypertension, tachycardia, fever, or agitation.  No evidence of
   infection or other toxins as cause of altered MS.  [**Name13 (STitle) 1424**] and urine tox
   screen negative.
   -          CIWA, treat with valium IV for now with transition to PO
   once more stabalized
   -          Correct electrolyte deficiencies
   -          Continues to be at risk for seizures, although seizures in
   ETOH withdrawal are usually self limited and [**Male First Name (un) **]
t require longer term
   seizure therapy.  However, if suggestive of status, will treat with
   dilantin
   -          Check dilantin level and confirm outpatient dose
   -          Monitor anion gap with IVFs
   -          SW consult, [**First Name8 (NamePattern2) 2445**] [**Last Name (NamePattern1) 2446**]
   # H/O Seizures
 Appears to be in the setting of ETOH withdrawal, but
   unclear why he would be on dilantin for simply ETOH related seizures.
   -          Check dilantin level
   -          Confirm medications with outpatient PCP (Dr [**Last Name (STitle) 2447**]? At
   NEMIC)
   -          Valium prn for ETOH withdrawal and ativan and witness more
   acute seizure
   # Metabolic acidosis
 Anion gap with elevated lactate, likely d/t ETOH
   and starvation ketosis
   -          IVFs with NS for now for hydration, but then transition to
   D5
   -          Thiamine prior to glucose
   -          Repeat lactate
   # HTN
 On atenolol at home, but unknown dose.  Currently holding
   antihypertensives and treating with CIWA.
   # Right hip pain
 Hip film negative for fracture.  Erythema, warmth,
   left shift and tenderness to palpation concerning for infected joint.
   Consider tapping or obtaining CT for further evaluation.  Currently not
   on empiric antibiotics.
   # Extra axial hemorrhage
 Bleed vs artifact. No obvious neurologic
   deficits.
   - Repeat neuro exam when sober
   - F/u neuro [**Doctor First Name 458**] recs
   - Repeat head CT in 24 hrs
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2180-5-9**] 02:47 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2180-05-10 11:21:00 Physician Attending Progress Note
Chief Complaint: ETOH withdrawl
   HPI:
   24 Hour Events:
 PICC LINE - START [**2180-5-9**] 02:47 PM
   CIWA rising on po Ativan, so converted back to IV Valium
   Repeat head CT this AM
   Allergies:
   Penicillins
   Unknown; Rash;
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Diazepam (Valium) - [**2180-5-10**] 09:31 AM
   Other medications:
   Folate, thiamine, MVI, PPI
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2180-5-10**] 11:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.3
C (99.1
   HR: 92 (85 - 110) bpm
   BP: 145/82(77) {118/64(77) - 179/96(112)} mmHg
   RR: 23 (15 - 32) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  3,887 mL
                                                                  1,860 mL
   PO:
                                                                    780 mL
                                                                    180 mL
   TF:
   IVF:
                                                                  3,107 mL
                                                                  1,680 mL
   Blood products:
   Total out:
                                                                  1,565 mL
                                                                  1,690 mL
   Urine:
                                                                  1,565 mL
                                                                  1,690 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,322 mL
                                                                    170 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///28/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   11.6 g/dL
   274 K/uL
   91 mg/dL
   0.6 mg/dL
   28 mEq/L
   3.9 mEq/L
   5 mg/dL
   101 mEq/L
   138 mEq/L
   32.9 %
   9.5 K/uL
        [image002.jpg]
                             [**2180-5-9**]  11:45 AM
                             [**2180-5-9**]  03:50 PM
                             [**2180-5-10**]  03:10 AM
   WBC
   8.3
   9.5
   Hct
   35.7
   32.9
   Plt
   255
   274
   Cr
   0.7
   0.6
   0.6
   Glucose
   116
   121
   91
   Other labs: PT / PTT / INR:13.4/31.4/1.2, Ca++:7.5 mg/dL, Mg++:2.4
   mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   61-year-old man with alcohol intoxication now with withdrawal
   1. ETOH withdrawl: now back on IV Valium (30 mg since MN), will switch
   to po Valium with TID standing and break through by CIWA
       Repleting lytes, continue Thiamine, MVI
       Follow up head CT
   2. Access: able to get PICC
   3. FEN: po diet, heplock IVF
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2180-5-9**] 02:47 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent: 35 minutes

2180-05-11 07:12:00 Physician Resident Progress Note
Chief Complaint: ETOH withdrawl
   24 Hour Events:
   -CIWA has been under 10 all day, received 10mg in total of breakthrough
   diazepam
   -Repeat NCHCT negative
   -h/o childhood seizure, dilantin level <0.6 so obviously not taking it
   -written for oxycodone for prn hip pain
   -received pneumovax
   Allergies:
   Penicillins
   Unknown; Rash;
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Diazepam (Valium) - [**2180-5-10**] 09:31 AM
   Other medications:
   Oxycodone prn pain
   diazapam 5-10mg q3H prn CIWA
   Thiamine
   MVI
   Folic acid
   Pantoprazole 40mg IV daily
   Changes to medical and family history: None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Less agitated
   Musculoskeletal: Joint pain, Right hip pain
   Neurologic: No hallucinations
   Flowsheet Data as of  [**2180-5-11**] 07:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.8
C (100.1
   HR: 94 (84 - 102) bpm
   BP: 132/88(98) {118/65(53) - 177/100(120)} mmHg
   RR: 29 (16 - 31) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
                  Total In:
                                                                  1,983 mL
                  PO:
                                                                    240 mL
                  TF:
   IVF:
                                                                  1,743 mL
   Blood products:
   Total out:
                                                                  3,425 mL
                                                                    550 mL
   Urine:
                                                                  3,425 mL
                                                                    550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,442 mL
                                                                   -550 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///28/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic), Regular rhythm, normal rate
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Right hip pain with palpation
   Skin:  Not assessed, No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   270 K/uL
   12.7 g/dL
   128 mg/dL
   0.6 mg/dL
   28 mEq/L
   3.4 mEq/L
   6 mg/dL
   102 mEq/L
   138 mEq/L
   35.9 %
   10.7 K/uL
        [image002.jpg]
                             [**2180-5-9**]  11:45 AM
                             [**2180-5-9**]  03:50 PM
                             [**2180-5-10**]  03:10 AM
                             [**2180-5-11**]  03:39 AM
   WBC
   8.3
   9.5
   10.7
   Hct
   35.7
   32.9
   35.9
   Plt
   255
   274
   270
   Cr
   0.7
   0.6
   0.6
   0.6
   Glucose
   116
   121
   91
   128
   Other labs: PT / PTT / INR:13.4/31.4/1.2, Ca++:8.6 mg/dL, Mg++:2.0
   mg/dL, PO4:2.2 mg/dL
   Imaging:
   Non-contrast Head CT:
   The previously described small linear area of high attenuation adjacent
   to the lateral right frontal lobe is no longer visualized. There is no
   evidence of significant changes in the interim, unchanged lacunar
   ischemic event on the right thalamus and chronic microvascular ischemic
   changes as described above
   Assessment and Plan
   The patient is a 61 y.o.m. with ETOH abuse, h/o withdrawal seizures and
   DT
s who presents with alcohol intoxication and ? seizures in ED.
   # ETOH withdrawal
 Last drink Monday afternoon at some point.  Chronic
   alcoholic.   Serum/urine tox screens otherwise negative, no electrolyte
   abnormalities or evidence of infections.  Lactic acidosis on admission
   likely due to alcohol and poor nutrition, resolved with IVF.  No
   evidence of seizures yet, but has had alcoholi hallucinosis.  His CIWA
   scales have been under 10 for the past 24hrs.
   -Can likely d/c diazapam
   -Keep K and Mg >4 and 2 respectively
   -continue thiamine, folic acid, MVI
   -SW consulting
   # H/O Seizures
 Per records, has a history of childhood seizures for
   which he takes dilantin.  Dilantin level <0.6, so unclear if he is
   actually taking this.
   -Consider restarting dilantin today
   # HTN
 On atenolol at home, but unknown dose.   Holding
   antihypertensives in the setting of benzodiazapines.
   -Consider restarting once stable off diazapam.
   # Right hip pain
 Hip film negative for acute fracture.
   -oxycodone prn pain
   ICU Care
   Nutrition:
   Comments: Regular diet as tolerated
   Glycemic Control:  Comments: Not needed
   Lines:
   PICC Line - [**2180-5-9**] 02:47 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Transfer to floor

2180-05-11 10:16:00 Physician Attending Progress Note
Chief Complaint: ETOH withdrawl
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Head CT
   The previously described small linear area of high attenuation
   adjacent to the lateral right frontal lobe is no longer visualized
   Total 50 mg Valium
   Overall much improved this AM
 conversant and not tremulous
   Is complaining of severe diarrhea
   Allergies:
   Penicillins
   Unknown; Rash;
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2180-5-11**] 09:09 AM
   Heparin Sodium (Prophylaxis) - [**2180-5-11**] 09:10 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever, diarrhea
   Flowsheet Data as of  [**2180-5-11**] 10:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.3
C (99.2
   HR: 100 (84 - 102) bpm
   BP: 142/94(99) {123/66(53) - 177/102(120)} mmHg
   RR: 19 (16 - 31) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 89 kg (admission): 86 kg
   Height: 70 Inch
             Total In:
                                                                  1,983 mL
                                                                     70 mL
   PO:
                                                                    240 mL
                                                                     60 mL
   TF:
   IVF:
                                                                  1,743 mL
                                                                     10 mL
   Blood products:
   Total out:
                                                                  3,425 mL
                                                                    715 mL
   Urine:
                                                                  3,425 mL
                                                                    715 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,442 mL
                                                                   -645 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///28/
   Physical Examination
   Gen: sitting up in bed, chatting NAD
   CV: RR
   Chest: coase BS no wheezes
   AbdL soft NT
   Ext: no edema
   Labs / Radiology
   12.7 g/dL
   270 K/uL
   128 mg/dL
   0.6 mg/dL
   28 mEq/L
   3.4 mEq/L
   6 mg/dL
   102 mEq/L
   138 mEq/L
   35.9 %
   10.7 K/uL
        [image002.jpg]
                             [**2180-5-9**]  11:45 AM
                             [**2180-5-9**]  03:50 PM
                             [**2180-5-10**]  03:10 AM
                             [**2180-5-11**]  03:39 AM
   WBC
   8.3
   9.5
   10.7
   Hct
   35.7
   32.9
   35.9
   Plt
   255
   274
   270
   Cr
   0.7
   0.6
   0.6
   0.6
   Glucose
   116
   121
   91
   128
   Other labs: PT / PTT / INR:13.4/31.4/1.2, Ca++:8.6 mg/dL, Mg++:2.0
   mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   61-year-old man with alcohol intoxication now with withdrawal
   1. ETOH withdrawl: po Valium with TID standing and break through by
   CIWA.  Total 50 mg Valium yesterday.
   Will convert back to equivalent home Ativan and keep on CIWA. Repleting
   lytes, continue Thiamine, MVI.
   Will consult Social work and investigate rehab if amenable
   Ok for floor today for further montioring of RTOH wdrawl
   2. Diarrhea: question ETOH related, check C diff. Ok to give anti
   diarrheal while work up pending
   3. Seziures: since childhood restart home dilantin.
   4. Access: able to get PICC and functions well
   ICU Care
   Nutrition: po diet MVI thiamine
   Lines:
   PICC Line - [**2180-5-9**] 02:47 PM
   Communication:  with pt
   [**Name (NI) 66**] status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes